US04152162
A polymer dispersion of carboxylic acid silver salts - carboxylic acids - silver bromide (Composition H - 5) was produced in the same manner as in Example 1 except that a mixture of 272 g of behenic acid and 82 g of an equimolar mixture of C24H49COOH, C26H53COOH and C28H57COOH was used instead of the mixture of 272 g of behenic acid and 82 g of C26H53COOH.

reactant | C24H49COOH | C(CCCCCCCCCCCCCCCCCCCCCCC)C(=O)O | C25H50O2
reactant | C26H53COOH | C(CCCCCCCCCCCCCCCCCCCCCCCCC)C(=O)O | C27H54O2
reactant | C28H57COOH | C(CCCCCCCCCCCCCCCCCCCCCCCCCCC)C(=O)O | C29H58O2
product | behenic acid | 272 g | C(CCCCCCCCCCCCCCCCCCCCC)(=O)O | C22H44O2
